US04813998
A solution of 3.3 parts of 1-(2,3-dihydro-2,2-dimethyl-4H-1-benzopyran-4-yl)-1H-imidazole-5-carboxylic acid in 45 parts in warm N,N-dimethylformamide was cooled to room temperature and then 2 parts of 1,1'-carbonylbis[1H-imidazole] were added. The whole was stirred at room temperature till CO2 evolution had ceased (±30 minutes). The mixture was heated to ±70° C. and 2.4 parts of ethanol and 0.1 parts of sodium ethoxide were added. Stirring was continued over weekend at ±70° C. After evaporation, the residue was taken up in water and trichloromethane. The organic layer was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using trichloromethane as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from hexane. The product was filtered off and dried, yielding 2.36 parts (63.5%) of ethyl 1-(2,3-dihydro-2,2-dimethyl-4H-1-benzopyran-4-yl)-1H-imidazole-5-carboxylate; mp. 80.9° C. (compound 1.138).

reactant | 1-(2,3-dihydro-2,2-dimethyl-4H-1-benzopyran-4-yl)-1H-imidazole-5-carboxylic acid | CC1(OC2=C(C(C1)N1C=NC=C1C(=O)O)C=CC=C2)C | C15H16N2O3
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | ethyl 1-(2,3-dihydro-2,2-dimethyl-4H-1-benzopyran-4-yl)-1H-imidazole-5-carboxylate | 63.5% | CC1(OC2=C(C(C1)N1C=NC=C1C(=O)OCC)C=CC=C2)C | C17H20N2O3
